US05306849
0.35 g of anhydrous aluminium chloride was added to 25 g of 2-isopropylphenyl chloroformate and the mixture was heated at 200° C. for 3 hours at normal pressure. The reaction mixture was cooled and worked up as described in Example 1. 2-Isopropylchlorobenzene was obtained in a yield of 20%, which is considerable despite the unfavourable substitution pattern.

reactant | aluminium chloride | 0.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-isopropylphenyl chloroformate | 25 g | ClC(=O)OC1=C(C=CC=C1)C(C)C | C10H11ClO2
product | 2-Isopropylchlorobenzene | yield of 20% | C(C)(C)C1=C(C=CC=C1)Cl | C9H11Cl
